US05216015
Step 2: Preparation of 3α-tert-butyldiphenylsilyloxy-12α-(2,2-dimethyl)butyryloxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane
3α-tert-butyldiphenylsilyloxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-12α-hydroxy-5β-androstane (10.6 g), 4-pyrrolidinopyridine (0.207 g) and 2,2-dimethylbutyryl chloride (2.25 g) are dissolved in pyridine (55 ml) and the solution warmed to 110° C., stirred for about 1 hour, additional 2,2-dimethylbutyryl chloride (2.25 g) is added and stirring continued for about 14 hours at 110° C. The mixture is cooled, diluted with 20% ether in hexane and washed with water, then 1M hydrochloric acid. The organic solution is dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product is purified by flash chromatography in 10% ether in hexane to give the desired product.

reactant | 3α-tert-butyldiphenylsilyloxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-12α-hydroxy-5β-androstane | 10.6 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)O)C(CC=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C52H66O2Si
reactant | 4-pyrrolidinopyridine | 0.207 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
reactant | 2,2-dimethylbutyryl chloride | 2.25 g | CC(C(=O)Cl)(CC)C | C6H11ClO
reactant | 2,2-dimethylbutyryl chloride | 2.25 g | CC(C(=O)Cl)(CC)C | C6H11ClO
solvent | pyridine | 55 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 3α-tert-butyldiphenylsilyloxy-12α-(2,2-dimethyl)butyryloxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)OC(C(CC)(C)C)=O)C(CC=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C58H76O3Si
